US03984407
b. 4,7-Dihydro-N,N-dimethyl-1-indanpropylamine
A solution of 35 g. (0.174 mole) of N,N-dimethylinden-3-propylamine in a total volume of 125 ml. of ether is added to 2 liters of liquid ammonia. Over 1 hr., 44 g. (6.3 g-atoms) of lithium ribbon is added at the reflux temperature. After a total of 3 hours, the reaction mixture is blue. 550 ml. of ethanol is added over 135 min. whereupon the blue color fades. The ammonia is allowed to evaporate overnight and the residue dissolved in 1500 ml. of water and extracted twice with ether. The ether extract gives 34.5 g. (98.6%) of crude diene upon drying and solvent removal which contains ca, 10% of the corresponding aromatic compound by nmr integration.

reactant | N,N-dimethylinden-3-propylamine | 0.174 mole | CN(CCCC1=CCC2=CC=CC=C12)C | C14H19N
reactant | ether | CCOCC | C4H10O
reactant | ammonia | N | H3N
reactant | lithium | 6.3 g | [Li] | Li
solvent | ethanol | C(C)O | C2H6O
product | 4,7-Dihydro-N,N-dimethyl-1-indanpropylamine | CN(CCCC1CCC=2CC=CCC12)C | C14H23N
